US09034866B2
Into a 20000-mL 4-necked round-bottom flask was placed a solution of 5-bromo-4-fluoro-9-azatricyclo[8.1.1.0[2,7]]dodeca-2,4,6-trien-8-one (800 g, 2.96 mol, 1.00 equiv) in toluene (10000 mL), followed by the addition of PCl5 (1540 g, 7.40 mol, 2.50 equiv) in several batches at 25° C. over 1 hour. The resulting solution was heated to reflux for 5 hr, cooled to room temperature and diluted with 5000 mL of ether. The solids were collected by filtration and dissolved in 10000 mL of ether. The resulting mixture was washed with 5000 mL of ammonia (10%), dried over anhydrous sodium sulfate and concentrated under vacuum to afford 700 g (82%) of 5-bromo-8-chloro-4-fluoro-9-azatricyclo[8.1.1.0[2,7]]dodeca-2,4,6,8-tetraene as a white solid.

reactant | 5-bromo-4-fluoro-9-azatricyclo[8.1.1.0[2,7]]dodeca-2,4,6-trien-8-one | 2.96 mol, 800 g, 1.00 equiv | BrC1=C(C=C2C3CC(NC(C2=C1)=O)C3)F | C11H9BrFNO
reactant | PCl5 | 7.40 mol, 1540 g, 2.50 equiv | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | toluene | 10000 mL | C1(=CC=CC=C1)C | C7H8
solvent | ether | 5000 mL | CCOCC | C4H10O
product | 5-bromo-8-chloro-4-fluoro-9-azatricyclo[8.1.1.0[2,7]]dodeca-2,4,6,8-tetraene | 700 g, 82% | BrC1=C(C=C2C3CC(N=C(C2=C1)Cl)C3)F | C11H8BrClFN
